US05643793
The racemic ethyl 3-hydroxyhexanoate 3.46 g (21.6 mmol) obtained in Reference example 1 was dissolved in methanol 24 ml, sodium hydroxide 0.95 g in water 24 ml was added dropwise with cooling, and the mixture was reacted with stirring in a stream of nitrogen at room temperature for two hours. Methanol was removed from the reactant under reduced pressure, and the residue was neutralized with 1N-HCl. After saturating the resultant by adding sodium chloride, the solution was extracted with ethyl acetate, the extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to obtain racemic 3-hydroxyhexanoic acid 2.50 g (18.9 mmol, 87%). The resultant, benzyl bromide 6.47 g (37.8 mmol). sodium bicarbonate 3,81 g (45.4 mmol) and N,N-dimethylformamide 20 ml were reacted with stirring at room temperature for 27 hours in a stream of nitrogen. The reaction mixture was extracted with ethyl acetate, and the extract was dried over anhydrous magnesium sulfate and filtered, and the solvent was distilled off under reduced pressure. The residue was chromatographed with silica gel column to obtain racemic benzyl 3-hydroxyhexanoate 2.11 g (9.5 mmol, 50%).

reactant | racemic ethyl 3-hydroxyhexanoate | 21.6 mmol, 3.46 g | OC(CC(=O)OCC)CCC | C8H16O3
reactant | sodium hydroxide | 0.95 g | [OH-].[Na+]
solvent | methanol | 24 ml | CO | CH4O
solvent | water | 24 ml | O | H2O
product | racemic 3-hydroxyhexanoic acid | 18.9 mmol, 2.50 g, 87% | OC(CC(=O)O)CCC | C6H12O3
